US07750002B2
Amine preparation: To a solution of 1-(tert-butoxycarbonyl)-3-piperidine-carboxylic acid (0.50 g) in DMF (3 mL) was added 1,1′-carbonyldiimidazole (0.70 g). The reaction mixture was stirred for 4 h and then triethylamine (0.60 mL) followed by methylamine hydrochloride (0.29 g) was added. After stirring for 24 h the reaction mixture was then diluted with ethyl acetate, washed with water, brine, dried (MgSO4) and the solvent removed in vacuo. The residue was purified by flash chromatography to yield 3-methylcarbamoyl-piperidine-1-carboxylic acid tert-butyl ester (0.41 g). Treatment of this compound with HCl in DCM/MeOH yielded the desired amine, which was isolated as the hydrochloride salt.

reactant | 1-(tert-butoxycarbonyl)-3-piperidine-carboxylic acid | 0.50 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)O | C11H19NO4
reactant | 1,1′-carbonyldiimidazole | 0.70 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethylamine | 0.60 mL | C(C)N(CC)CC | C6H15N
reactant | methylamine hydrochloride | 0.29 g | Cl.CN
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-methylcarbamoyl-piperidine-1-carboxylic acid tert-butyl ester | 0.41 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C(NC)=O | C12H22N2O3
